US04673683
106 g of Na2CO3 are added to a solution of 112 g of 3-(4-tert.-butylphenyl)-2-methyl-propyl chloride and 50 g of 4-hydroxypiperidine in 1 liter of dimethylformamide (DMF). The batch is heated at 150° C. for 15 hours and then concentrated, and the residue is taken up in CH2Cl2. The CH2CL2 phase is washed with water, dried over Na2SO4 and concentrated. Distillation of the crude product gives 103 g of N-[3-(4-tert.-butylphenyl)-2-methyl-propyl]-4-hydroxypiperidine [A] as a pale yellowish oil. Boiling point 175°-178° C./0.4 mbar.

reactant | Na2CO3 | 106 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-(4-tert.-butylphenyl)-2-methyl-propyl chloride | 112 g | C(C)(C)(C)C1=CC=C(C=C1)CC(CCl)C | C14H21Cl
reactant | 4-hydroxypiperidine | 50 g | OC1CCNCC1 | C5H11NO
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | N-[3-(4-tert.-butylphenyl)-2-methyl-propyl]-4-hydroxypiperidine | 103 g | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CCC(CC1)O)C | C19H31NO
